US07498337B2
tert-butyl{[1-(6-chloro-5-methyl-3-pyridinesulfonyl)-5-phenyl-1H-pyrrol-3-yl]methyl}methylcarbamate
1-[(6-Chloro-5-methylpyridin-3-yl)sulfonyl]-5-phenyl-1H-pyrrole-3-carbaldehyde (244 mg) was dissolved in absolute tetrahydrofuran (6.8 mL), a 2 mol/L solution (0.34 mL) of methylamine in tetrahydrofuran was added, and the mixture was stirred at room temperature for 4 hr. The reaction mixture was added to a solution of sodium borohydride (51 mg) in methanol (3 mL), and the mixture was stirred at the same temperature for 3 min. di-tert-Butyl bicarbonate (654 mg) was added, and water (5 mL) and sodium hydrogencarbonate (420 mg) were added 3 min later. The mixture was further stirred at room temperature for 30 min, water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate=19:1→3:1) to give the title compound as an oil (yield 247 mg, 77%).

reactant | 1-[(6-Chloro-5-methylpyridin-3-yl)sulfonyl]-5-phenyl-1H-pyrrole-3-carbaldehyde | 244 mg | ClC1=C(C=C(C=N1)S(=O)(=O)N1C=C(C=C1C1=CC=CC=C1)C=O)C | C17H13ClN2O3S
reactant | methylamine | CN | CH5N
reactant | sodium borohydride | 51 mg | [BH4-].[Na+]
reactant | sodium hydrogencarbonate | 420 mg | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 6.8 mL | O1CCCC1 | C4H8O
solvent | methanol | 3 mL | CO | CH4O
solvent | water | O | H2O
solvent | water | 5 mL | O | H2O
product | tert-butyl{[1-(6-chloro-5-methyl-3-pyridinesulfonyl)-5-phenyl-1H-pyrrol-3-yl]methyl}methylcarbamate | yield 247 mg, 77% | C(C)(C)(C)OC(N(C)CC1=CN(C(=C1)C1=CC=CC=C1)S(=O)(=O)C=1C=NC(=C(C1)C)Cl)=O | C23H26ClN3O4S
